**************************************************
* Manufacturer: 		Wurth Elektronik
* Kinds:			 Common Mode Power Line Choke
* Matchcode: 		WE-LF SMD
* Library Type:		LTspice
* Version: 		rev18a
* Created/modified by:	Fredo Huang
* Date and Time   :		2018-01-03
* Team: 			eiSos EDA Service
* Contact: 		libraries@we-online.com
**************************************************
.SUBCKT  LFSMD  1  2  3  4  PARAMS:
R_R9  N12325  3  {R2}
R_R8  N13265  N13287  {Rs4}
Kn_K6  L_L11  L_L12  
+  L_L13  L_L14  0.9999
R_R3  N12571  N12583  {Rs3}
R_R10  N13777  4  {R2}
C_C10  N13029  N12821  {ck}
R_R20  N13215  N13229  {dR4}
L_L11  N12821  N12295  {dL4}
R_R17  N12267  N12273  {dR3}
L_L8  N13265  N13287  {L4}
R_R7  N13287  N13305  {Rs3}
L_L9  N12295  N12307  {L5}
Kn_K4  L_L7  L_L8  1
R_R2  N12583  N12599  {Rs2}
Kn_K5  L_L9  L_L10  1
R_R16  N13229  N13249  {dR6}
Kn_K7  L_L15  L_L16  
+  L_L17  L_L18  0.9999
C_C5  N12273  N12289  {dC4}
L_L6  N13287  N13305  {L3}
L_L7  N12307  N12571  {L4}
R_R6  N13305  N13319  {Rs2}
R_R21  1  N12257  {Rdc}
Kn_K3  L_L5  L_L6  1
L_L16  N12257  N12799  {dL3}
C_C8  N13215  N13741  {dC3}
L_L18  N13023  N13215  {dL3}
R_R1  N12599  3  {Rs1}
R_R13  N12289  N12295  {dR5}
L_L4  N13305  N13319  {L2}
L_L5  N12571  N12583  {L3}
R_R15  N13755  N13249  {dR5}
R_R5  N13319  4  {Rs1}
R_R18  N12257  N12273  {dR4}
Kn_K2  L_L3  L_L4  1
R_R19  N13741  N13229  {dR3}
L_L15  N12799  N12273  {dL3}
L_L17  N13229  N13023  {dL3}
L_L3  N12583  N12599  {L2}
R_R11  N12295  N12307  {Rs5}
L_L2  N13319  4  {L1}
C_C4  N13249  N13265  {C2}
L_L10  N13249  N13265  {L5}
Kn_K1  L_L1  L_L2  1
R_R14  N12273  N12295  {dR6}
C_C6  N13229  N13755  {dC4}
L_L12  N12273  N12821  {dL4}
L_L14  N13029  N13229  {dL4}
L_L1  N12599  3  {L1}
C_C1  N12307  N12325  {C1}
R_R12  N13249  N13265  {Rs5}
C_C2  N13265  N13777  {C1}
R_R22  2  N13215  {Rdc}
C_C9  N13023  N12799  {ck}
R_R4  N12307  N12571  {Rs4}
C_C3  N12295  N12307  {C2}
L_L13  N13249  N13029  {dL4}
C_C7  N12257  N12267  {dC3}
.ends  LFSMD
******
.subckt SH_74466340007_0.7m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=0.00000031
+  DL4=0.00000002
+  DC3=0.0000000000075
+  DC4=0.0000000000008
+  DR3=17
+  dR4=4.5k
+  DR5=23
+  dR6=2k
+  Rdc=0.025
+  ck=2.3pF
+  L1=500u
+  L2=80u
+  L3=23u
+  L4=4u
+  L5=60n
+  C1=2.8p
+  C2=0.5p
+  RS1=5500
+  RS2=1400
+  RS3=400
+  RS4=200
+  RS5=800
+  R2=1
.ends SH_74466340007_0.7m
******
.subckt SH_7446632001_1m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=0.00000051
+  DL4=0.000000034
+  DC3=0.0000000000085
+  DC4=0.0000000000008
+  DR3=17
+  dR4=6k
+  DR5=23
+  dR6=1.5k
+  Rdc=0.05
+  ck=2pF
+  L1=1.2m
+  L2=120u
+  L3=23u
+  L4=4u
+  L5=90n
+  C1=3.1p
+  C2=0.7p
+  RS1=6500
+  RS2=1400
+  RS3=400
+  RS4=200
+  RS5=1000
+  R2=1
.ends SH_7446632001_1m
******
.subckt SH_7446632002_2.2m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=0.0000009
+  DL4=0.000000044
+  DC3=0.000000000011
+  DC4=0.0000000000065
+  DR3=17
+  dR4=8k
+  DR5=23
+  dR6=1.5k
+  Rdc=0.08
+  ck=1.5pF
+  L1=2m
+  L2=620u
+  L3=23u
+  L4=4u
+  L5=120n
+  C1=3.7p
+  C2=2p
+  Rs1=10k
+  RS2=6400
+  RS3=400
+  RS4=200
+  RS5=1000
+  R2=1
.ends SH_7446632002_2.2m
******
.subckt SH_7446632003_3.3m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=0.0000016
+  DL4=0.000000044
+  DC3=0.000000000008
+  DC4=0.000000000013
+  DR3=17
+  dR4=12k
+  DR5=23
+  dR6=1k
+  Rdc=0.125
+  ck=1.5pF
+  L1=4m
+  L2=620u
+  L3=23u
+  L4=4u
+  L5=110n
+  C1=3.9p
+  C2=4p
+  Rs1=17k
+  RS2=9400
+  RS3=400
+  RS4=200
+  RS5=1100
+  R2=1
.ends SH_7446632003_3.3m
******
.subckt SH_7446631007_6.8m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=0.000003
+  DL4=0.000000056
+  DC3=0.0000000000132
+  DC4=0.000000000024
+  DR3=17
+  dR4=15k
+  DR5=23
+  dR6=5k
+  Rdc=0.25
+  ck=1pF
+  L1=7m
+  L2=820u
+  L3=23u
+  L4=4u
+  L5=300n
+  C1=4.2p
+  C2=7p
+  Rs1=35k
+  Rs2=12k
+  RS3=400
+  RS4=200
+  RS5=1400
+  R2=1
.ends SH_7446631007_6.8m
******
.subckt SH_7446631010_10m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=0.0000053
+  DL4=0.000000096
+  DC3=0.0000000000097
+  DC4=0.000000000036
+  DR3=17
+  dR4=25k
+  DR5=23
+  dR6=6k
+  Rdc=0.48
+  ck=1pF
+  L1=12m
+  L2=1.3m
+  L3=23u
+  L4=4u
+  L5=300n
+  C1=4.4p
+  C2=7p
+  Rs1=58k
+  Rs2=12k
+  RS3=400
+  RS4=200
+  RS5=1400
+  R2=1
.ends SH_7446631010_10m
******
.subckt SH_7446630027_27m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=0.000012
+  DL4=0.00000025
+  DC3=0.0000000000185
+  DC4=0.000000000037
+  DR3=17
+  dR4=35k
+  DR5=23
+  dR6=2k
+  Rdc=1.05
+  ck=1.2pF
+  L1=30m
+  L2=1.2m
+  L3=23u
+  L4=4u
+  L5=0.9u
+  C1=5.9p
+  C2=12p
+  Rs1=160k
+  Rs2=42k
+  RS3=400
+  RS4=200
+  RS5=1700
+  R2=1
.ends SH_7446630027_27m
******
.subckt SH_7446630039_39m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=0.000016
+  DL4=0.000000325
+  DC3=0.00000000001
+  DC4=0.000000000037
+  DR3=17
+  dR4=35k
+  DR5=23
+  dR6=12k
+  Rdc=1.5
+  ck=2.2pF
+  L1=33m
+  L2=1.3m
+  L3=23u
+  L4=4u
+  L5=1200n
+  C1=5.1p
+  C2=13p
+  Rs1=180k
+  Rs2=42k
+  RS3=400
+  RS4=200
+  RS5=1700
+  R2=1
.ends SH_7446630039_39m
******
.subckt SH_7446630047_47m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=0.000014
+  DL4=0.000001342
+  DC3=0.000000000014
+  DC4=0.000000000001
+  DR3=27
+  dR4=35k
+  DR5=230
+  dR6=22k
+  Rdc=2.1
+  ck=11pF
+  L1=36m
+  L2=12m
+  L3=1m
+  L4=5u
+  L5=255n
+  C1=9p
+  C2=14p
+  Rs1=220k
+  Rs2=83k
+  RS3=500
+  RS4=600
+  RS5=1400
+  R2=10.41
.ends SH_7446630047_47m
